US06340684B1
Synthesis of 6,7-dimethoxy-1-pyridin-4-ylmethyl-4-thiazol-2-yl-phthalazine (Compound 2)
In anhydrous environment, bromothiazole (831 mg, 5.067 mmoles) and 2:1 THF/toluene (15 ml) were added dropwise to powder zinc (500 mg, 7.6 mmoles), with mild heating. The mixture was brought to reflux for 1.5 hours, then added with 1-chloro-6,7-dimethoxy-4-pyridin-4-ylmethyl-phthalazine (800 mg, 2.53 mmoles), obtained as described in example 15, palladium acetate (28 mg) and triphenylphosphine (66 mg). The mixture was kept under reflux for 3 hours, then added with palladium acetate (56 mg) and triphenylphosphine (133 mg) and kept under reflux overnight. Further palladium acetate (56 mg) and triphenylphosphine (133 mg) were added and after 4 hours the mixture was poured into methylene chloride/30% aqueous ammonia. The phases were separated and the organic one was washed with water, dried and brought to dryness to give a crude which was chromatographed (eluent: methylene chloride/methanol 2.4%) to give 354 mg of the title compound (yield: 38.4%).

reactant | bromothiazole | 5.067 mmoles, 831 mg | BrC=1SC=CN1 | C3H2BrNS
reactant | THF toluene | 15 ml | C1CCOC1.C1(=CC=CC=C1)C
reactant | 1-chloro-6,7-dimethoxy-4-pyridin-4-ylmethyl-phthalazine | 2.53 mmoles, 800 mg | ClC1=NN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC=NC=C1 | C16H14ClN3O2
reactant | triphenylphosphine | 66 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 133 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 133 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | zinc | 7.6 mmoles, 500 mg | [Zn] | Zn
catalyst | palladium acetate | 28 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6,7-dimethoxy-1-pyridin-4-ylmethyl-4-thiazol-2-yl-phthalazine | 354 mg, yield: 38.4% | COC=1C=C2C(=NN=C(C2=CC1OC)CC1=CC=NC=C1)C=1SC=CN1 | C19H16N4O2S
